US08044041B2
A mixture 2-bromobenzonitrile (1.0 g, 5.494 mmol), (S)-(+)-2-methylpiperazine (0.60 g, 5.99 mmol), Pd2(dba)3 (0.503 g, 0.549 mmol), rac-BINAP (1.026 g, 1.648 mmol) and NaOtBu (2.11 g, 21.976 mmol) in DMA (27 mL) was heated at 80° C. for 2.5 h. The mixture was allowed to cool, diluted with EtOAc and washed with water. The organic layer was washed with sat.aq. NaHCO3, brine and dried (Na2SO4). Chromatography (EtOAc/MeOH) afforded 2-((R)-3-methyl-piperazin-1-yl)-benzonitrile (540 mg) as a white solid. 1H (400 MHz, d6-DMSO) δ: ppm; m/z (M+1) 202.21.

reactant | 2-bromobenzonitrile | 5.494 mmol, 1.0 g | BrC1=C(C#N)C=CC=C1 | C7H4BrN
reactant | (S)-(+)-2-methylpiperazine | 5.99 mmol, 0.60 g | C[C@@H]1NCCNC1 | C5H12N2
reactant | rac-BINAP | 1.648 mmol, 1.026 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOtBu | 21.976 mmol, 2.11 g | CC(C)(C)[O-].[Na+]
solvent | DMA | 27 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 0.549 mmol, 0.503 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-((R)-3-methyl-piperazin-1-yl)-benzonitrile | 540 mg | C[C@@H]1CN(CCN1)C1=C(C#N)C=CC=C1 | C12H15N3
